US08486952B2
A solution of 2,4-dichloro-7-(4-chlorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (300 mg, 1.001 mmol), methanamine, HCl salt (135 mg, 2.003 mmol) and DIPEA (0.700 mL, 4.01 mmol) in MeOH (6 mL) was stirred at rt for 30 min. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to afford 2-chloro-7-(4-chlorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (101 mg, 0.343 mmol, 34.3% yield). LC-MS (M+H)+=294.2.

reactant | 2,4-dichloro-7-(4-chlorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.001 mmol, 300 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)Cl | C13H9Cl3N2
reactant | DIPEA | 4.01 mmol, 0.700 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 6 mL | CO | CH4O
product | 2-chloro-7-(4-chlorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.343 mmol, 101 mg, 34.3% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)NC | C14H13Cl2N3
